* C:\Users\raikp\OneDrive - Charité - Universitätsmedizin Berlin\Github\expDBS\LTspice_circuit_simulations\Method_Simulation_DCC-IPG_Bipolar_100µA_3source_3TransientOvershoot.asc
V1 N007 0 PULSE(0 3.0 0.00220 0.000001 0.000001 0.000732 0.00750)
Q1 E1 N021 0 0 BC846B
R1 N021 N001 1Meg tol=5 pwr=0.05
R2 N002 N001 1Meg tol=5 pwr=0.05
C2 N001 N007 750p V=10
R5 N001 0 95k3 tol=1 pwr=0.05
Q3 E1 N002 N007 0 BC856B
Q2 N011 N010 N007 0 BC856B
Q4 Ref1 N011 N010 0 BC856B
R4 N011 E1 1Meg tol=5 pwr=0.05
R6 N007 N010 4k53 tol=1 pwr=0.05
R7 Ref1 0 357k0 tol=1 pwr=0.05
C1 N013 N018 820p
R3 N013 N018 10k tol=1 pwr=0.05
C4 P001 N012 47n
R8 N018 P001 10k
C3 N018 N012 3n
Q5 E2 N022 0 0 BC846B
R9 N022 N003 1Meg tol=5 pwr=0.05
R10 N004 N003 1Meg tol=5 pwr=0.05
Q6 E2 N004 N008 0 BC856B
C6 N015 N019 820p
R15 N015 N019 15k tol=1 pwr=0.05
C7 P002 N014 47n
R16 N019 P002 15k
C8 N019 N014 3n
V2 N008 0 PULSE(0 3.0 0.00220 0.000001 0.000001 0.000732 0.00750)
R17 E2 N015 1k tol=5
R18 N012 Ref1 2k tol=5
R19 E1 N013 1k tol=5
R20 N014 Ref2 2k tol=5
L1 N008 Ref2 5.6n
R11 0 N003 95k3
C9 Ref2 E2 0.005µ
C5 N003 N008 750p
C10 N008 Ref2 0.1µ
R12 Ref2 0 357k0
Q7 E3 N023 0 0 BC846B
R13 N023 N005 1Meg tol=5 pwr=0.05
R14 N006 N005 1Meg tol=5 pwr=0.05
Q8 E3 N006 N009 0 BC856B
C11 N017 N020 820p
R21 N017 N020 15k tol=1 pwr=0.05
C12 P003 N016 47n
R22 N020 P003 15k
C13 N020 N016 3n
R23 E3 N017 1k tol=5
R24 N016 Ref3 2k tol=5
L2 N009 Ref3 5.6n
R25 0 N005 95k3
C14 Ref3 E3 0.005µ
C15 N005 N009 750p
C16 N009 Ref3 0.1µ
V3 N009 0 PULSE(0 3.0 0.00220 0.000001 0.000001 0.000732 0.00750)
L3 Ref3 0 4.7µ
.model NPN NPN
.model PNP PNP
.lib C:\Users\raikp\AppData\Local\LTspice\lib\cmp\standard.bjt
* .tran 0 0.21 0.202 startup
* brain tissue\nimpedance
* body tissues\nimpedance
* body tissues\nimpedance
* brain tissue \nimpedance
* body tissue\nimpedance
* brain tissue \nimpedance
.tran 0 0.208 0.203 startup
* PULSE(0 3.0 0.00050 0.000001 0.000001 0.000732 0.00750)
* PULSE(0 3.0 0.00310 0.000001 0.000001 0.000732 0.00750)
* PULSE(0 3.0 0.00580 0.000001 0.000001 0.000732 0.00750)
.backanno
.end
